US04864028
2,7-Difluoro-4-methyl-9-fluorenone (1.3 g, 0.0056 mol), potassium cyanide (3 eq, 0.017 mol, 1.1 g), ammonium bicarbonate (3 eq, 0.017 mol, 1.3 g), and 50 mL of ethanol were placed in a sealed bomb and heated at 125° C. for 20 h. The bomb was cooled to room temperature and the contents were filtered through Celite washing with water and ethyl acetate. The filtratewas concentrated in vacuo and the residue was dissolved in 40 mL of 1N aqueous sodium hydroxide and washed with ethyl acetate (2×30 mL). The aqueous solution was acidified with concentrated hydrochloric acid and the product extracted into ethyl acetate. The organic solution was then dried and concentrated providing 1.1 g of a crude white solid which was recrystallized from ethanol to give 340 mg of 2,7-difluoro-4-methylspiro(9H-fluorene-9,4'-imidazolidine)-2',5'-dione: mp>320° C.; 1H NMR (DMSO-d6, 60 mHz) δ 8.5 (s, 1H), 7.8 (m, 1H), 7.2 (m, 4H), 2.7 (s, 3H); IR (KBr) 3300, 1710, 1380, 770 cm-1 ; MS m/z 300 (M+), 229 (base peak). Analysis Calculated for C16H10F2N2O2.1/2H2O: C, 62.14; H, 3.58; N, 9.06. Found: C, 62.21; H, 3.58; N, 8.81.

reactant | 2,7-Difluoro-4-methyl-9-fluorenone | 0.0056 mol, 1.3 g | FC1=CC=2C(C3=CC(=CC=C3C2C(=C1)C)F)=O | C14H8F2O
reactant | potassium cyanide | 0.017 mol, 1.1 g, 3 eq | [C-]#N.[K+]
reactant | ammonium bicarbonate | 0.017 mol, 1.3 g, 3 eq | C([O-])(O)=O.[NH4+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
product | 2,7-difluoro-4-methylspiro(9H-fluorene-9,4'-imidazolidine)-2',5'-dione | 340 mg | FC1=CC2=C(C(=C1)C)C1=CC=C(C=C1C21NC(NC1=O)=O)F | C16H10F2N2O2
